US07459554B2
{3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-phenyl}-methanol:
A solution of 3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-benzoic acid methyl ester (600 mg, 1.40 mmol) in THF was cooled to −78° C. in an acetone/dry ice bath for 5.0 min. The reaction was purged with nitrogen and charged dropwise with 1M lithium aluminum hydride (LAH) (1.40 mL). After all the LAH was added, the solution was removed from the bath and allowed to warm to room temperature (rt). As the solution warmed, a white solid formed on the sides of the flask. The reaction mixture was then charged with ethyl acetate, Na2SO4.10H2O and silica. This solution was then concentrated in vacuo to a solid, and was chromatographed on silica gel [Jones Flashmaster, 50 g cartridge, eluting with 2% NH3 in MeOH:CH2Cl2] to yield the title compound as a white solid; 1H NMR (CDCl3, 400 MHz) δ 1.99-2.07 (m, 1H), 2.11-2.22 (m, 1H), 2.44-2.52 (m, 2H), 2.58-2.68 (m, 2H), 3.76-3.84 (m, 1H), 4.69 (s, 2H), 5.16 (s, 2H), 6.98 (d, J=13.2 Hz, 1H), 7.02-7.05 (m, 1H), 7.08 (d, J=4.8 Hz, 1H), 7.16-7.17 (m, 1H), 7.25-7.28 (m, 1H), 7.35-7.43 (m, 5H); MS (ES+): m/z 401.19 (100) [MH+].

reactant | 3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-benzoic acid methyl ester | 1.40 mmol, 600 mg | COC(C1=CC(=CC=C1)COC1=CC(=CC=C1)C=1N=C(N2C1C(=NC=C2)N)C2CCC2)=O | C25H24N4O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | {3-[3-(8-Amino-3-cyclobutyl-imidazo[1,5-a]pyrazin-1-yl)-phenoxymethyl]-phenyl}-methanol | NC=1C=2N(C=CN1)C(=NC2C=2C=C(OCC=1C=C(C=CC1)CO)C=CC2)C2CCC2 | C24H24N4O2
